US09212182B2
A flask was charged with 6-(benzylthio)-1-(5-chloro-2-methoxy-4-(trifluoromethyl)phenyl)quinolin-2(1H)-one (1.63 g, 3.43 mmol), MeCN (16.11 ml), AcOH (0.612 ml), and water (0.403 ml). The heterogeneous mixture was cooled to 0° C. for 10 min. 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione (0.675 g, 3.43 mmol) was added portionwise (5 portions 0.135 g each, each portion added over 5 min., 20-30 min apart). After 3.5 h the reaction was not complete by LCMS, so another 0.25 equiv (0.1688 g) of hydantoin was added, followed by another 0.25 equiv. hydantoin at 4 h. With the reaction still at 0° C., 2,3,4,5,6-pentafluorophenol (0.757 g, 4.11 mmol) was added to the reaction flask, along with MeCN (2 mL). After 10 minutes, triethylamine (1.910 ml, 13.70 mmol) was added dropwise over 1 min. The reaction was allowed to stir at 0° C. After for 30 min, 1:1 brine:water (20 mL) was added, then EtOAc (20 mL). The layers were separated and the aqueous layer was extracted again with 20 mL EtOAc. The combined organics were dried with sodium sulfate, filtered and concentrated to give a brown sticky solid, which was taken up in 75 mL iPrOH (with 10 min sonication), then let stand for 20 min. A white powdery solid crashed out and was collected by filtration through a medium glass frit, the solid washed with iPrOH and dried under high vac. The filtrate was also concentrated to dryness and purified by Biotage, 100 g SNAP Ultra silica col, loaded in minimal DCM onto dry column and purified with a gradient from 2-50% EtOAc/heptane. Fractions with product were combined with the filtered crystals and concentrated under high vac to provide perfluorophenyl 1-(5-chloro-2-methoxy-4-(trifluoromethyl)phenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (1.7957 g, 2.99 mmol, 87% yield). m/z (ESI) 600.0 (M+H)+.

reactant | 6-(benzylthio)-1-(5-chloro-2-methoxy-4-(trifluoromethyl)phenyl)quinolin-2(1H)-one | 3.43 mmol, 1.63 g | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=C(C=C(C(=C1)Cl)C(F)(F)F)OC)=O | C24H17ClF3NO2S
reactant | 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione | 3.43 mmol, 0.675 g | ClN1C(N(C(C1(C)C)=O)Cl)=O | C5H6Cl2N2O2
reactant | hydantoin | 0.1688 g, 0.25 equiv | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | hydantoin | 0.25 equiv. | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | 2,3,4,5,6-pentafluorophenol | 4.11 mmol, 0.757 g | FC1=C(C(=C(C(=C1F)F)F)F)O | C6HF5O
reactant | triethylamine | 13.70 mmol, 1.910 ml | C(C)N(CC)CC | C6H15N
reactant | brine | [Cl-].[Na+].O
solvent | iPrOH | 75 mL | CC(C)O | C3H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | water | 20 mL | O | H2O
solvent | MeCN | 2 mL | CC#N | C2H3N
solvent | water | 0.403 ml | O | H2O
solvent | AcOH | 0.612 ml | CC(=O)O | C2H4O2
solvent | MeCN | 16.11 ml | CC#N | C2H3N
product | perfluorophenyl 1-(5-chloro-2-methoxy-4-(trifluoromethyl)phenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 2.99 mmol, 1.7957 g, 87% yield | ClC=1C(=CC(=C(C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)OC)C(F)(F)F | C23H10ClF8NO5S
